US05049674
Preparation of 4-cyclopropylmethoxy-2-methylpyridine-N-oxide.
To sodium hydride (55% pure) (4.4 g, 0.1 mol) (washed with petroleum ether), cyclopropyl-methanol (50 ml) was added. Then a solution of 2-methyl-4-nitropyridine-N-oxide (6.5 g, 0.042 mol) in cyclopropylmethanol (30 ml) was added during about 1 h. The dark brown mixture was heated to 90° C. and stirred at 90° C. for about 1 h. Thereafter the cyclopropylmethanol was distilled off under reduced pressure and methylene chloride (100 ml) was added to the residue. The mixture was stirred for about 30 minutes, then filtered and concentrated which gave 9.5 g of crude material.

reactant | sodium hydride | 0.1 mol, 4.4 g | [H-].[Na+]
reactant | 2-methyl-4-nitropyridine-N-oxide | 0.042 mol, 6.5 g | CC1=[N+](C=CC(=C1)[N+](=O)[O-])[O-] | C6H6N2O3
reactant | cyclopropylmethanol | 30 ml | C1(CC1)CO | C4H8O
reactant | cyclopropyl-methanol | 50 ml | C1(CC1)CO | C4H8O
product | 4-cyclopropylmethoxy-2-methylpyridine-N-oxide | 9.5 g | C1(CC1)COC1=CC(=[N+](C=C1)[O-])C | C10H13NO2
